US07265246B2
Prepare a solution of thioacetamide (10 g, 133 mmol) in ethanol (75 mL). Add ethyl-4-chloroacetoacetate (16.5 mL, 122 mmol). Stir the reaction overnight at 50° C. and then concentrate in vacuo. Dissolve the resulting oil in water (75 mL) and extract with diethyl ether (3×50 mL). Extract the aqueous layer with CHCl3 (3×50 mL). Wash the combined organic layers with brine (50 mL), dry (Na2SO4), filter, and concentrate in vacuo to afford (2-methylthiazol-4-yl)acetic acid ethyl ester (17 g) as a solid. 1H NMR (CDCl3) δ 7.02 (s, 1H), 4.15-4.25 (m, 2H), 3.79 (s, 2H), 2.71 (s, 3H), 1.25 (t, J=7 Hz, 3H).

reactant | thioacetamide | 133 mmol, 10 g | C(C)(=S)N | C2H5NS
reactant | ethyl-4-chloroacetoacetate | 122 mmol, 16.5 mL | C(C)OC(CC(=O)CCl)=O | C6H9ClO3
solvent | ethanol | 75 mL | C(C)O | C2H6O
product | (2-methylthiazol-4-yl)acetic acid ethyl ester | 17 g | C(C)OC(CC=1N=C(SC1)C)=O | C8H11NO2S
